US07951828B1
Step 3: Production of methyl N-[4-hydroxyiminomethyl-2-methylbenzoyl]carbamate
In a solution of 41 mg of methyl N-[4-formyl-2-methyl benzoyl]carbamate in 4 mL of methanol and 1 mL of water, 15 mg of hydroxylamine hydrochloride was added at room temperature with stirring, and continued to stir at the same temperature for 1.5 hour. After the completion of the reaction, 10 mL of water was added in the reaction mixture, and extracted with ethyl acetate (10 mL×2). The combined organic phases were dehydrated with and dried over saturated sodium chloride aqueous solution and then anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 45 mg of the aimed product as white crystal.

reactant | methyl N-[4-formyl-2-methyl benzoyl]carbamate | 41 mg | C(=O)C1=CC(=C(C(=O)NC(OC)=O)C=C1)C | C11H11NO4
reactant | hydroxylamine hydrochloride | 15 mg | Cl.NO
solvent | methanol | 4 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | methyl N-[4-hydroxyiminomethyl-2-methylbenzoyl]carbamate | 45 mg | ON=CC1=CC(=C(C(=O)NC(OC)=O)C=C1)C | C11H12N2O4
